US06034275
A solution of 4.1 g of (E)-(RS)-1-[4-[4-(allyl-methyl-amino)-but-2-enyloxy]-3-fluoro-phenyl]-3-hydroxy-5-methyl-hex-4-en-1-one (Ex. 21) in 280 ml of toluene is added to 2.6 g of p-toluenesulphonic acid and stirred at room temperature for 2.5 hrs. The reaction mixture is concentrated, the residue is dissolved in methylene chloride, extracted with saturated sodium bicarbonate solution, dried and the residue is concentrated and purified over silica gel with 97.5% methylene chloride/methanol. The free amine is dissolved in methylene chloride/methanol with 0.75 g of fumaric acid, evaporated and recrystallized from ethyl acetate/methanol/ether. There are obtained 2.77 g of (E)-1-[4-[(E)-4-(allyl-methyl-amino)-but-2-enyloxy]-3-fluoro-phenyl]-5-methyl-hexa-2,4-dien-1-one.fumarate (1:1), MS: m/e 344 (M+H+).

reactant | (E)-(RS)-1-[4-[4-(allyl-methyl-amino)-but-2-enyloxy]-3-fluoro-phenyl]-3-hydroxy-5-methyl-hex-4-en-1-one | 4.1 g | C(C=C)N(C/C=C/COC1=C(C=C(C=C1)C(CC(C=C(C)C)O)=O)F)C | C21H28FNO3
reactant | p-toluenesulphonic acid | 2.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 280 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-1-[4-[(E)-4-(allyl-methyl-amino)-but-2-enyloxy]-3-fluoro-phenyl]-5-methyl-hexa-2,4-dien-1-one | 2.77 g | C(C=C)N(C/C=C/COC1=C(C=C(C=C1)C(\C=C\C=C(C)C)=O)F)C | C21H26FNO2
